datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[C:4]([H:8])([H:9])[H:10])[H:5].[C:11]([C:12]([c:13]1[c:14]([H:23])[c:15]([H:24])[c:16]([H:25])[c:17]([H:26])[c:18]1[H:27])[H:22])([H:19])([H:20])[H:21]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[C:12]([C:11]([H:19])([H:20])[H:21])([c:13]1[c:14]([H:23])[c:15]([H:24])[c:16]([H:25])[c:17]([H:26])[c:18]1[H:27])[H:22])[C:4]([H:8])([H:9])[H:10])[H:5],23.2212
[C:0]([C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([H:11])[H:12])([C:4]([O:5][O:6][H:18])([H:16])[H:17])[O:7][O:8][H:19])([H:9])[H:10]>>[C:0]1([H:9])([H:10])[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([H:11])[H:12])([C:4]([O:5][O:6][H:18])([H:16])[H:17])[O:7]1.[O:8][H:19],40.1664
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5]#[C:6][H:12])[H:8])[H:7].[C:13](#[C:14][C:15]([H:17])[H:18])[H:16]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])[C:5]#[C:6][H:12])([H:8])[C:15]([C:14]#[C:13][H:16])([H:17])[H:18])[H:7],28.7441
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[S:4][H:9])[H:5].[S:10]([H:11])[H:12]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([S:4][H:9])[H:11])[H:5].[S:10][H:12],35.1456
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[S:4][H:11])[H:7])([H:5])[H:6].[C:12]([C:13]([S:14][H:21])([C:15](=[S:16])[H:22])[H:20])([H:17])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([S:4][H:11])[H:20])[H:7])([H:5])[H:6].[C:12]([C:13]([S:14][H:21])[C:15](=[S:16])[H:22])([H:17])([H:18])[H:19],12.552
[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[C:19]([c:20]1[c:21]([H:28])[c:22]([H:29])[c:23]([H:30])[c:24]([H:31])[c:25]1[H:32])([H:26])[H:27]>>[C:0]1([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[H:7][C:19]([c:20]1[c:21]([H:28])[c:22]([H:29])[c:23]([H:30])[c:24]([H:31])[c:25]1[H:32])([H:26])[H:27],81.5964
[C:0](=[C:1]=[C:2]=[C:3]([H:6])[H:7])([H:4])[H:5].[H:8]>>[C:0]([C:1]=[C:2]=[C:3]([H:6])[H:7])([H:4])([H:5])[H:8],5.326232
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14].[O:38][O:39][H:40]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14].[H:23][O:38][O:39][H:40],58.19944
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])[H:9])([H:7])[H:8].[C:19](=[C:20]([C:21]([C:22](=[C:23]([H:29])[H:30])[H:28])[H:27])[H:26])([H:24])[H:25]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[C:21]([C:20](=[C:19]([H:24])[H:25])[H:26])([C:22](=[C:23]([H:29])[H:30])[H:28])[H:27])[H:9])([H:7])[H:8],64.2244
[C:0](=[C:1]([C:2](=[O:3])[H:7])[H:6])([H:4])[H:5].[C:8]([C:9]([C:10]([C:11]([O:12][O:13])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:14])([H:15])[H:16]>>[C:0](=[C:1]([C:2]=[O:3])[H:6])([H:4])[H:5].[H:7][O:13][O:12][C:11]([C:10]([C:9]([C:8]([H:14])([H:15])[H:16])([H:17])[H:18])([H:19])[H:20])([H:21])[H:22],56.9024
[C:0](=[C:1]([C:2]1([H:10])[C:3]([H:11])=[C:4]([H:12])[C:5]([H:13])=[C:6]1[H:14])[H:9])([H:7])[H:8].[H:15]>>[C:0]([C:1]([C:2]1([H:10])[C:3]([H:11])=[C:4]([H:12])[C:5]([H:13])=[C:6]1[H:14])([H:9])[H:15])([H:7])[H:8],10.0416
[C:0]1([H:5])=[C:1]([H:6])[C:2]([H:7])([H:8])[C:3]([H:9])=[C:4]1[H:10].[H:11]>>[C:0]1([H:5])[C:1]([H:6])([H:11])[C:2]([H:7])([H:8])[C:3]([H:9])=[C:4]1[H:10],131.796
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4](=[C:5]([H:13])[H:14])[H:12])[H:8])([H:6])[H:7]>>[C:0](=[C:1][C:2]([C:3]([H:9])([H:10])[H:11])([C:4](=[C:5]([H:13])[H:14])[H:12])[H:8])([H:6])[H:7],263.174
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([O:3][O:4])[H:8])([H:5])([H:6])[H:7].[C:12]([C:13]([C:14]([H:20])([H:21])[H:22])([H:18])[H:19])([H:15])([H:16])[H:17]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([O:3][O:4][H:15])[H:8])([H:5])([H:6])[H:7].[C:12]([C:13]([C:14]([H:20])([H:21])[H:22])([H:18])[H:19])([H:16])[H:17],85.60464
[C:0]([C:1]([C:2]([C:3]([C:4](=[C:5]([H:15])[H:16])[H:14])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:6])[H:7]>>[C:0](=[C:1]([H:8])[H:9])([H:6])[H:7].[C:2]([C:3]([C:4](=[C:5]([H:15])[H:16])[H:14])([H:12])[H:13])([H:10])[H:11],115.361248
[C:0]([O:1][O:2])([H:3])([H:4])[H:5].[H:6][H:7]>>[C:0]([O:1][O:2][H:7])([H:3])([H:4])[H:5].[H:6],108.90952
